US05071844
(S)-1-(4-Methoxyphenylacetyl)proline
5M Aqueous sodium hydroxide solution (26 ml) was added to a solution of (S)-proline (582 g) in water (3.5 L) and acetone (3.5 L). The mixture was treated with ice (3.5 kg), cooled in an ice/acetone bath, treated over a one hour period with a solution of 4-methoxyphenylacetyl chloride (944 g) in acetone (1.75 L) with vigorous stirring and the simultaneous addition of sufficient 5M aqueous sodium hydroxide solution in order to keep the pH within the range 9.5-9.7. The reaction was stirred for 30 minutes, treated with concentrated hydrochloric acid (6 ml) and partially evaporated under reduced pressure to remove the majority of the acetone. The residue was treated with ice (2 kg), concentrated hydrochloric acid (750 ml) and the mixture stirred at room temperature for one hour. The resulting precipitate was collected, washed with water and recrystallised from toluene/ethanol to give the desired product as a colourless solid (905 g, 75%), m.p. 138°-139° C.

reactant | sodium hydroxide | 5M, 26 ml | [OH-].[Na+]
reactant | (S)-proline | 582 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-methoxyphenylacetyl chloride | 944 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | sodium hydroxide | 5M | [OH-].[Na+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | water | 3.5 L | O | H2O
solvent | acetone | 3.5 L | CC(=O)C | C3H6O
solvent | acetone | 1.75 L | CC(=O)C | C3H6O
product | (S)-1-(4-Methoxyphenylacetyl)proline | 905 g, 75% | COC1=CC=C(C=C1)CC(=O)N1[C@H](C(=O)O)CCC1 | C14H17NO4
